US04587342
A. 3-(7,8-Dimethoxy-2H-1-benzopyran-5-yl)-2-methoxymethylpropenenitrile
A mixture of sodium methoxide (7.02 g, 0.13 mole), 7,8-dimethoxy-5-formyl-2H-1-benzopyran (57 g, 0.26 mole) and 3-ethoxypropanenitrile (28.35 g, 0.286 mole) in methanol (150 mL) was heated at reflux for 4 hr, allowed to cool and diluted with water (150 mL) and ethylether (500 mL). The layers were separated and the ether portion was washed with water (3×250 mL and 1×100 mL) and dried over magnesium sulfate. The ether solution was concentrated to give 55 g (73%) of an amber oil which was used without further purification.

reactant | sodium methoxide | 0.13 mole, 7.02 g | C[O-].[Na+]
reactant | 7,8-dimethoxy-5-formyl-2H-1-benzopyran | 0.26 mole, 57 g | COC1=C(C2=C(C=CCO2)C(=C1)C=O)OC | C12H12O4
reactant | 3-ethoxypropanenitrile | 0.286 mole, 28.35 g | C(C)OCCC#N | C5H9NO
solvent | methanol | 150 mL | CO | CH4O
solvent | water | 150 mL | O | H2O
solvent | ethylether | 500 mL | C(C)OCC | C4H10O
product | 3-(7,8-Dimethoxy-2H-1-benzopyran-5-yl)-2-methoxymethylpropenenitrile | 55 g, 73% | COC1=C(C2=C(C=CCO2)C(=C1)C=C(C#N)COC)OC | C16H17NO4
